US08558012B2
In a 5 ml round-bottomed flask provided with a stirrer, MeOH (10 ml) was added to the (3S)-3-acetoxy-4-fluoro-1-phenyl-4,4-bis(phenylsulfonyl)-1-but ene (200 mg, 0.41 mmol, 94% ee) prepared in Reference Example 4, and the resultant mixture was cooled to −40° C. Then, samarium(II) iodide/tetrahydrofuran (0.1 M, 41 ml) was slowly added dropwise, and the mixture was stirred for 6 hours. Then, a saturated ammonium chloride aqueous solution was added. The aqueous layer was extracted with dichloromethane. A sodium thiosulfate aqueous solution was added to the organic layer, and the mixture was extracted. Then, the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation using an evaporator, and then complete removal of the salt was carried out by silica gel column chromatography (ethyl acetate). Next, a magnesium ribbon (164 mg, 6.73 mmol) was activated by a heat gun in a nitrogen atmosphere, then left to cool at room temperature. Then, the magnesium ribbon was cooled to 0° C., and MeOH (0.5 ml) was added. Then, a solution of the crude product, which had been dried, in MeOH (2.0 ml) was added to the mixture, and then the mixture was stirred. After 1 hour, a saturated ammonium chloride aqueous solution was added. The aqueous layer was extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation using an evaporator, and then the product was purified by preparative thin-layer chromatography (dichloromethane:methanol=95:5) to obtain the target (3S)-(E)-4-fluoro-3-hydroxy-1-phenyl-1-butene. However, the isolated yield was low, at 30% (20.4 mg, 93% ee).

reactant | (3S)-3-acetoxy-4-fluoro-1-phenyl-4,4-bis(phenylsulfonyl)-1-but ene | 0.41 mmol, 200 mg | C(C)(=O)O[C@@H](C=CC1=CC=CC=C1)C(S(=O)(=O)C1=CC=CC=C1)(S(=O)(=O)C1=CC=CC=C1)F | C24H21FO6S2
reactant | samarium(II) iodide tetrahydrofuran | 0.1 M, 41 ml | [I-].[Sm+2].[I-].O1CCCC1
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | magnesium ribbon | 6.73 mmol, 164 mg | [Mg] | Mg
solvent | MeOH | 0.5 ml | CO | CH4O
solvent | MeOH | 10 ml | CO | CH4O
product | (3S)-(E)-4-fluoro-3-hydroxy-1-phenyl-1-butene | FC[C@H](/C=C/C1=CC=CC=C1)O | C10H11FO
